US07479502B2
2-[2-Hydroxy-3′-nitro-5-(3-pyridin-3-yl-propionylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.031 g, 0.05 mmol), prepared as in Example 10, was dissolved in trifluoroacetic acid (5 mL) and the solution was subjected to hydrogenation at 50 psi over PtO2 catalyst for 12 hours. The mixture was concentrated in vacuum and product was purified from the residue by reverse phase HPLC (acetonitrile gradient) to give 2-[3′-amino-2-hydroxy-5-(3-piperidin-3-yl-propionylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine (0.01 g). MS: found (M+H+) 562.4, (M−H+) 560.6, calc. 561.22.

reactant | 2-[2-Hydroxy-3′-nitro-5-(3-pyridin-3-yl-propionylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.05 mmol, 0.031 g | OC1=C(C=C(C=C1C1=NC2=C(N1)C=CC(=C2)C(=N)N)S(NC(CCC=2C=NC=CC2)=O)(=O)=O)C2=CC(=CC=C2)[N+](=O)[O-] | C28H23N7O6S
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | PtO2 | O=[Pt]=O
product | 2-[3′-amino-2-hydroxy-5-(3-piperidin-3-yl-propionylsulfamoyl)-biphenyl-3-yl]-1H-benzoimidazole-5-carboxamidine | 0.01 g | NC=1C=C(C=CC1)C1=C(C(=CC(=C1)S(NC(CCC1CNCCC1)=O)(=O)=O)C1=NC2=C(N1)C=CC(=C2)C(=N)N)O | C28H31N7O4S
